US08440693B2
Intermediate 43.1: N-Methyl-N-(4-nitro-phenyl)-acetamide
To a solution of N-methyl-4-nitroaniline (200 mg, 1.31 mmol) in THF (5 ml) were successively added Et3N (0.364 ml, 2.63 mmol), acetyl chloride (0.14 ml, 1.97 mmol) and DMAP (8.0 mg, 0.066 mmol) at RT. The reaction mixture was stirred at RT for 2 h then diluted into AcOEt and washed with water. The organic layer was dried over Na2SO4, filtered and evaporated to dryness to yield the crude title compound (275 mg) as a brownish solid, which was used in the next step without further purification. HPLC: AtRet=1.17 min; LC-MS: m/z 195.4 [M+H]+; 1H NMR (400 MHz, CDCl3): 2.05 (br. s., 3H), 3.37 (s, 3H), 7.36-7.46 (m, 2H), 8.27-8.36 (m, 2H).

reactant | N-methyl-4-nitroaniline | 1.31 mmol, 200 mg | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | Et3N | 2.63 mmol, 0.364 ml | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 1.97 mmol, 0.14 ml | C(C)(=O)Cl | C2H3ClO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.066 mmol, 8.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Methyl-N-(4-nitro-phenyl)-acetamide | 275 mg | CN(C(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O3
